US06414149B1
Step C: (R)-1-[4-(4-Oxazolo[5,4-b]pyridin-2-yl-piperazin-1-yl)-pyrimidin-2-yl]-ethanol
To a solution of (R)-1-[4-(4-oxazolo[5,4-b]pyridin-2-yl-piperazin-1-yl)-pyrimidin-2-yl]-ethyl butyrate (prepared according to the method of Example 9, Step B, 11.0 g, 27.6 mmol) in dioxane (11.5 mL) was added concentrated hydrochloric acid (23 mL, 276 mmol). This mixture was stirred at room temperature overnight, neutralized with 6 N aqueous sodium hydroxide, and extracted with chloroform (3×). The combined organic extracts were dried over sodium sulfate, filtered, evaporated, and purified by flash column chromatography (3.5% methanol/chloroform) to give 8.4 g (93%) of the title compound as a white solid. mp: 153-156° C.; 1H NMR (CDCl3, 300 MHz) δ8.25 (d, 1H), 7.95 (dd, 1H), 7.58 (dd, 1H), 7.15 (dd, 1H), 6.45 (d, 1H), 4.72 (q, 1H), 4.25 (br s,1H), 3.85-3.82 (c, 8H), 1.51 (d, 3H); MS (CI/NH3) 327 (MH+); [α]D +16.1 (c 1.0, MeOH).

reactant | (R)-1-[4-(4-oxazolo[5,4-b]pyridin-2-yl-piperazin-1-yl)-pyrimidin-2-yl]-ethyl butyrate | C(CCC)(=O)O[C@H](C)C1=NC=CC(=N1)N1CCN(CC1)C=1OC2=NC=CC=C2N1 | C20H24N6O3
reactant | hydrochloric acid | 276 mmol, 23 mL | Cl | ClH
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
solvent | dioxane | 11.5 mL | O1CCOCC1 | C4H8O2
product | (R)-1-[4-(4-Oxazolo[5,4-b]pyridin-2-yl-piperazin-1-yl)-pyrimidin-2-yl]-ethanol | 8.4 g, 93% | N1=C(OC2=NC=CC=C21)N2CCN(CC2)C2=NC(=NC=C2)[C@@H](C)O | C16H18N6O2
